US04816181
Next, S(+)-2-octanol (50 g, 0.38 mol) was dissolved in dry pyridine (150 ml), and to the solution was dropwise added under cooling, a solution of 4'-benzyloxybiphenyl-4-carboxylic chloride (112 g, 0.35 mol) dissolved in dry toluene (150 ml), followed by agitating the mixture at about 50°-60° C. for 2 hours, thereafter adding water (300 ml) and toluene (300 ml), agitating the mixture, washing the separated toluene layer with 6N-HCl, then with 2N-NaOH aqueous solution and further with water until the washing water became neutral, drying the toluene layer with anhydrous sodium sulfate and distilling off toluene to obtain 4'-benzyloxybiphenyl-4-carboxylic acid 1-methylheptyl ester (53 g), dissolving this ester (53 g, 0.13 mol) in ethanol (500 ml) and reducing it in the presence of palladium/carbon (Pd/C) 5 g) to obtain 4'-hydroxy-4-(1-methyl-heptyloxycarbonyl)biphenyl (34 g). (ii) Preparation of 4-octyloxycarbonyloxybenzoic chloride

reactant | 4'-benzyloxybiphenyl-4-carboxylic chloride | 0.35 mol, 112 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C20H15ClO2
reactant | water | 300 ml | O | H2O
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-benzyloxybiphenyl-4-carboxylic acid 1-methylheptyl ester | 53 g | CC(CCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H32O3
